US06251912B1
To a stirred solution of 1.0 g of N-(3-bromophenyl)-4,6-quinazolindiamine and 0.62 g of diisopropyl methylamine in 21 mL of tetrahydrofuran at 0° C. was added 0.62 g of 4-methoxycrotonyl chloride. The mixture was stirred at 0° C. for 1.5 hr and 10 min at room temperature. The mixture was poured into saturated sodium bicarbonate-brine and extracted with ethyl acetate. The organic solution was dried over magnesium sulfate. The solution was filtered through silica gel and the solvent was removed. The residue was recrystallized from 1-butanol to give 1.25 g of 4-Methoxy-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide as a yellow solid: mass spectrum (m/e): M+H 415.0.

reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.0 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | diisopropyl methylamine | 0.62 g | C(C)(C)N(C)C(C)C | C7H17N
reactant | 4-methoxycrotonyl chloride | 0.62 g | COC/C=C/C(=O)Cl | C5H7ClO2
reactant | sodium bicarbonate brine | C([O-])(O)=O.[Na+].[Cl-].[Na+].O
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
product | 4-Methoxy-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 1.25 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CCOC)=O | C19H17BrN4O2
